US09290451B2
f) 6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid (1-methyl-1-oxazol-2-yl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-(3-chlorophenyl)-2-pyridinecarboxylic acid (CAN 863704-38-5) and α,α-dimethyl-2-oxazolemethanamine (CAN 1211519-76-4) as starting materials, MS (LC/MS): 341.9 [M+H]+.

reactant | 6-(3-chlorophenyl)-2-pyridinecarboxylic acid | ClC=1C=C(C=CC1)C1=CC=CC(=N1)C(=O)O | C12H8ClNO2
reactant | α,α-dimethyl-2-oxazolemethanamine | CC(N)(C=1OC=CN1)C | C6H10N2O
product | 6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid (1-methyl-1-oxazol-2-yl-ethyl)-amide | CC(C)(C=1OC=CN1)NC(=O)C1=NC(=CC=C1)C1=CC(=CC=C1)Cl | C18H16ClN3O2
